US08471035B1
2-(4-Diphenylaminophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
To a flame-dried 3-neck, round-bottomed 500 mL flask equipped with mechanical stirring and an addition funnel was added 4-bromotriphenylamine (12.5 g, 39.5 mmol) and THF (250 mL) by cannula. The solution was cooled to −78° C. and 1.6 M n-BuLi in hexane (26.5 mL, 42.4 mmol) was added by addition funnel over 15 min. After stirring for 30 min, 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (9.8 mL, 48.2 mmol) was added dropwise, and the reaction mixture was allowed to warm to room temperature overnight. Toluene and water were added, and the organic phase was further washed with water, dried with MgSO4, and concentrated. The crude product was purified by column chromatography eluting with hexane, 2/1 hexane/CH2Cl2, and finally 1/1 hexane/CH2Cl2 to give 6.4 g (45%) white crystals. 1H NMR (400 MHz, CDCl3) δ: 7.66 (m, 2H), 7.26 (m, 4H), 7.10 (m, 4H), 7.04 (m, 4H); GC-MS (m/z): 371 (M+), >97% purity. Anal. Calcd. for C24H26BNO2: C, 77.64%; H, 7.06%; B, 2.91%; N, 3.77%. Found: C, 77.78%; H, 7.21%; B, 2.70%; N, 3.53%.

reactant | 4-bromotriphenylamine | 39.5 mmol, 12.5 g | C1=CC=C(C=C1)N(C2=CC=CC=C2)C3=CC=C(C=C3)Br | C18H14BrN
reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | hexane | 42.4 mmol, 26.5 mL | CCCCCC | C6H14
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 48.2 mmol, 9.8 mL | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | water | O | H2O
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 2-(4-Diphenylaminophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 6.4 g, 45% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1 | C24H26BNO2
